Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.97844619599
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],4.34346244434
[H:1][C:2][O:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](/[H:9])[O:10][H:11]>>[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[O:10][H:11].[H:1][C:2]=[O:3],-0.7425047156
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1],3.4480705029800003
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])[H:14].[H:9],3.56105305703
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.85001697682
[C:3]([H:4])([H:5])[H:6].[H:1][C:2][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.76757376101
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],2.85627675782
[C:1]#[C:2].[C:3]([H:4])[O:5][C:6](=[O:7])[H:8]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6](=[O:7])[H:8],-7.32242255838
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.234118051359999
[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.57191317056
[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.28071715304
[C:1].[C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]/[C:2]([H:3])=[C:4](\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.1813129572
[C:1]#[C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[C:5][O:6][H:7].[O:8][H:9],6.28320609924
[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3](=[C:4])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.28547336
[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-2.7439089682
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2][H:3],5.05078831
[H:1][C:2]#[C:3][C:4]([O:5][O:6])=[C:8]([H:9])[H:10].[H:7]>>[H:1][C:2]#[C:3][C:4]([O:5][O:6][H:7])=[C:8]([H:9])[H:10],-3.6725893135300023
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:8]#[C:9][C:10]([H:11])[H:12].[H:7],2.2820331053
[H:1][C:2][O:3][C:4][O:5][C:6]=[C:8]([H:9])[H:10].[H:7]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-5.13767606191
[H:1][C:2]([C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[O:10]>>[H:1][C:2]1[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10]1,0.636691966431
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])([C:8])[H:13].[H:1][C:2]([H:3])=[C:4][C:9]([C:10])([H:11])[H:12],9.06904305081
[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],-0.698283322059
[H:1][O:2][C:3]([H:4])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.90806321923
[H:11].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.38583331818
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][H:3],3.7402497612
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:7]([H:8])=[C:9]([H:10])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:11][H:12],6.01569766701
[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-0.5850595429300001
[H:1][C:2]=[C:3]([H:4])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.48666123174
